US07173023B2
In a dried flask under an inert atmosphere, 50 mg (0.18 mmol) of 8-(3-fluoro-benzyloxy)-1,3-dihydro-benzo[d]azepin-2-one were dissolved in 3 ml of dichloromethane, and the solution cooled to 0° C. Thereupon, 21 mg (0.21 mmol) triethylamine were added and stirring continued at 0° C. Finally, 18 μl (0.2 mmol) of methoxyacetic acid chloride were added. The reaction mixture was left to warm to RT and stirring continued for 18 h. For the working-up, the reaction mixture was evaporated under reduced pressure. For purification, the crude material obtained was directly transferred on a column and chromatographed on silica gel using a 99:1-mixture of dichloromethane and methanol as the eluent. There were obtained 15 mg (24% of theory) of 8-(3-fluoro-benzyloxy)-3-methoxyacetyl-1,3-dihydro-benzo[d]azepin-2-one as a white powder; MS: m/e=356 (M+H)+.

reactant | 8-(3-fluoro-benzyloxy)-1,3-dihydro-benzo[d]azepin-2-one | 0.18 mmol, 50 mg | FC=1C=C(COC=2C=CC3=C(CC(NC=C3)=O)C2)C=CC1 | C17H14FNO2
reactant | triethylamine | 0.21 mmol, 21 mg | C(C)N(CC)CC | C6H15N
reactant | methoxyacetic acid chloride | 0.2 mmol, 18 μl | COCC(=O)Cl | C3H5ClO2
solvent | dichloromethane | 3 ml | ClCCl | CH2Cl2
product | 8-(3-fluoro-benzyloxy)-3-methoxyacetyl-1,3-dihydro-benzo[d]azepin-2-one | 15 mg, 24% | FC=1C=C(COC=2C=CC3=C(CC(N(C=C3)C(COC)=O)=O)C2)C=CC1 | C20H18FNO4
